US05739336
A mixture of 5-chloro-o-anisic acid (50 g, 0.27 mol), oxalyl chloride (23 mL, 0.27 mol) and methylene chloride was stirred 1 hour at approximately 25° C. and then treated with DMF (2 drops). The mixture was stirred an additional hour, heated 45 minutes at reflux and then concentrated. The residue was dissolved in THF and the solution was reconcentrated. The residue was dissolved in THF-(approximately 200 mL) and the solution was added in a thin stream to a mixture of triethylamine (96 mL, 0.7 mol), N,O-dimethylhydroxylamine hydrochloride (26.3 g, 0.27 mol) and methylene chloride (approximately 300 mL). After an exothermic reaction had ensued, the mixture was allowed to cool to 25° C. and stirred approximately 16 hours. The mixture was filtered, concentrated and then partitioned between ethyl acetate and water. The organic layer was separated, washed with water (2×), sodium bicarbonate. (2×), 2% hydrochloric acid (1×) and brine (1×), dried (K2CO3), filtered and concentrated to give N-methoxy-N-methyl-5-chloro-2-methoxy-benzamide (52.3 g, 0.23 mmol), m.p. 80°-83° C.

reactant | 5-chloro-o-anisic acid | 0.27 mol, 50 g | ClC1=CC=C(C(C(=O)O)=C1)OC | C8H7ClO3
reactant | oxalyl chloride | 0.27 mol, 23 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 0.7 mol, 96 mL | C(C)N(CC)CC | C6H15N
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.27 mol, 26.3 g | Cl.CNOC
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | methylene chloride | approximately 300 mL | C(Cl)Cl | CH2Cl2
product | N-methoxy-N-methyl-5-chloro-2-methoxy-benzamide | 0.23 mmol, 52.3 g | CON(C(C1=C(C=CC(=C1)Cl)OC)=O)C | C10H12ClNO3
